US09278944B2
Methyl [(E)-2-(4-{1-[(tert-butoxycarbonyl)(cyclopropyl)amino]ethyl}-6-vinylpyridin-2-yl)vinyl]carbamate and trifluoroacetic acid were treated in the similar manner to Reference Example 113(8) to give methyl ((E)-2-{4-[1-(cyclopropylamino)ethyl]-6-vinylpyridin-2-yl}vinyl)carbamate [Ex(297-5)] as a pale yellow oil.

reactant | Methyl [(E)-2-(4-{1-[(tert-butoxycarbonyl)(cyclopropyl)amino]ethyl}-6-vinylpyridin-2-yl)vinyl]carbamate | C(C)(C)(C)OC(=O)N(C(C)C1=CC(=NC(=C1)C=C)/C=C/NC(OC)=O)C1CC1 | C21H29N3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | methyl ((E)-2-{4-[1-(cyclopropylamino)ethyl]-6-vinylpyridin-2-yl}vinyl)carbamate | C1(CC1)NC(C)C1=CC(=NC(=C1)C=C)/C=C/NC(OC)=O | C16H21N3O2
